### PR TITLE
feat(ModularForms): add Eisenstein asymptotics and Serre derivative ModularForms

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Establishes asymptotic behavior of Eisenstein series and proves serre_D produces ModularForms.

### Main Results

**Serre derivative slash invariance:**
- `serre_D_slash_equivariant`: serre_D k F ∣[k+2] γ = serre_D k (F ∣[k] γ)
- `serre_D_slash_invariant`: If F is weight-k invariant, serre_D k F is weight-(k+2) invariant

**Asymptotics (using `atImInfty` filter directly):**
- `D_tendsto_zero_of_tendsto_const`: D f → 0 at i∞ for bounded holomorphic f
- `E₂_tendsto_one_atImInfty`: E₂ → 1 at i∞
- `serre_D_E₄_tendsto_atImInfty`, `serre_D_E₆_tendsto_atImInfty`, `serre_D_E₂_tendsto_atImInfty`

**ModularForm constructions:**
- `serre_D_E₂_ModularForm`, `serre_D_E₄_ModularForm`, `serre_D_E₆_ModularForm`

### Key Insight

E₂ is NOT a modular form, but serre_D 1 E₂ IS a weight-4 modular form.

### New Files

- `SerreDerivativeSlash.lean` (+128 lines)
- `EisensteinAsymptotics.lean` (+280 lines)

### Other Changes

- `Derivative.lean` (+21 lines): Ramanujan stub declarations for checkdecls CI
- `E2.lean` (+11 lines net): Supporting lemmas

### Note on Ramanujan Stubs

This PR includes sorry-ed stubs for `ramanujan_E₂`, `ramanujan_E₄`, `ramanujan_E₆` (and primed versions) in `Derivative.lean`. These are required because the blueprint references them via `\lean{...}` directives, and the `checkdecls` CI step verifies all such references exist. The actual proofs are in #267 (CoreRamanujan.lean).

### Dependencies

- ✅ **#265** (cauchy-boundedness) - merged

### Merge Order

1. ~~**#265**: cauchy-boundedness~~ ✅ merged
2. **#266**: serre-derivative-asymptotics ← (this PR)
3. **#267**: core-ramanujan
4. **#268**: q-expansion-identities
5. **#248**: q-expansion-Eisenstein (MLDE)

### Test Plan

- [x] `lake build` passes

### CODE REVIEW

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 1]
```diff
@@ -0,0 +1,402 @@
...
+    change IsBoundedAtImInfty (serre_D 4 E₄.toFun ∣[(6 : ℤ)] A)
+    rw [← hA'_eq]
+    convert serre_D_E₄_isBoundedAtImInfty using 1
+
+/-- serre_D 6 E₆ is bounded at infinity. -/
+lemma serre_D_E₆_isBoundedAtImInfty : IsBoundedAtImInfty (serre_D 6 E₆.toFun) :=
+  serre_D_isBoundedAtImInfty 6 E₆.holo' E₆_isBoundedAtImInfty
+
+/-- serre_D 6 E₆ is a weight-8 modular form. -/
+def serre_D_E₆_ModularForm : ModularForm (CongruenceSubgroup.Gamma 1) 8 where
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]: Instead of separate `serre_D_E₄_ModularForm ` and `serre_D_E₆_ModularForm`, I actually want to see that serre derivative $\partial_k f$ of weight $k$ modular form of level 1 is weight $k+2$ modular form, which should be possible to prove from `serre_D_slash_equivariant` and probably missing? theorem about `BoundedAtImInfty` for serre derivative (I may saw this in some other PR but not sure...).

Honestly I think these worth to be upstreamed to mathlib, although there are pretty long way to do. If you are interested, I can start with upstreaming things in `Derivative.lean` (luckily we have `E₂` there)

Comment (cameronfreer) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: Thanks, that's cleaner -- I've added `serre_D_ModularForm` which uses `serre_D_isBoundedAtImInfty` (from `Derivative.lean` already) along with `serre_D_slash_invariant` (derived from `serre_D_slash_equivariant`) as well as `serre_D_isBoundedAtImInfty `for boundedness at cusps and `serre_D_differentiable for holomorphicity`.

See 946d55abfe93540183725df1b7cdea59452913b4 and 6e15291bfe527ff86708646c40294e0186e5a805.

In subsequent commits I also golfed/simplified and added a `simp` lemma `ModularForm.slash_eq_self`.

Sounds good re upstreaming to mathlib -- I'm interested, but no rush.

File: SpherePacking/ModularForms/E2.lean [hunk 2]
```diff
@@ -780,6 +780,17 @@ lemma E₂_transform (z : ℍ) : (E₂ ∣[(2 : ℤ)] ModularGroup.S) z =
...
+/-- E₂ transforms under SL(2,ℤ) as: E₂ ∣[2] γ = E₂ - α • D₂ γ where α = 1/(2ζ(2)) -/
+lemma E₂_slash_transform (γ : SL(2, ℤ)) :
+    (E₂ ∣[(2 : ℤ)] γ) = E₂ - (1 / (2 * riemannZeta 2)) • D₂ γ := by
+  rw [E₂]
+  have hG := G₂_transform γ
+  have hsm := ModularForm.SL_smul_slash (2 : ℤ) γ G₂ (1 / (2 * riemannZeta 2))
+  rw [hsm, hG]
+  ext z
+  simp only [Pi.smul_apply, Pi.sub_apply, smul_eq_mul]
+  ring
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/E2.lean]:
```suggestion
  ext z
  simp [E₂, G₂_transform γ]
  ring
```

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 3]
```diff
@@ -0,0 +1,354 @@
...
+  rw [atImInfty]
+  exact (tendsto_exp_neg_mul_atTop hc).comp Filter.tendsto_comap
+
+/-- A modular form tends to its value at infinity as z → i∞. -/
+lemma modular_form_tendsto_atImInfty {k : ℤ} (f : ModularForm (Gamma 1) k) :
+    Filter.Tendsto f.toFun atImInfty (nhds ((qExpansion 1 f).coeff 0)) := by
+  have hdecay := ModularFormClass.exp_decay_sub_atImInfty' f
+  obtain ⟨c, hc, hO⟩ := hdecay
+  have hval := qExpansion_coeff_zero f (by norm_num : (0 : ℝ) < 1) one_mem_strictPeriods_SL2Z
+  rw [hval]
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]: I think there are lots of these have H := ... followed by rw [H], which can normally be inlined into rw [result]. I think there are several of these in the stuff here (or coming out of claude). This should help make the proofs shorter. Also lots of times a rw followed by a simp can be combined into a single simp.

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 4]
```diff
@@ -0,0 +1,354 @@
...
+
+/-- The filter comap of Subtype.val on PosReal at atTop is NeBot. -/
+instance PosReal_comap_atTop_neBot :
+    (Filter.comap Subtype.val (Filter.atTop : Filter ℝ)).NeBot (α := PosReal) := by
+  rw [Filter.comap_neBot_iff]
+  intro s hs
+  rw [Filter.mem_atTop_sets] at hs
+  obtain ⟨a, ha⟩ := hs
+  exact ⟨⟨max a 1, lt_max_of_lt_right one_pos⟩, ha (max a 1) (le_max_left a 1)⟩
+
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]: We dont really need this definition other than for making upper half plane elements, where its better to just take a number with the hyp its positive and then construct it.

Comment (cameronfreer) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: Thanks for catching this -- I eliminated this but in the process simplified a bunch else; see the commit message of 0bb93eb939e4f02c9d2272a7b1727093c0f818bf for details

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 5]
```diff
@@ -0,0 +1,280 @@
...
+    simp only [Set.mem_preimage, Set.mem_Ici] at hz
+    have hz_ge_A : z.im / 2 > max A 0 := by
+      have h1 : z.im ≥ 2 * max A 0 + 1 := le_trans (le_max_left _ _) hz
+      linarith
+    have hz_ge_bound : z.im > |M| / (π * ε) := by
+      have h1 : z.im ≥ |M| / (π * ε) + 1 := le_trans (le_max_right _ _) hz
+      linarith
+    have hclosed := closedBall_center_subset_upperHalfPlane z
+    have hDiff : DiffContOnCl ℂ (f ∘ ofComplex) (Metric.ball (z : ℂ) (z.im / 2)) :=
+      diffContOnCl_comp_ofComplex_of_mdifferentiable hf hclosed
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]:
```suggestion
    have hz_ge_A : z.im / 2 > max A 0 := by linarith [le_trans (le_max_left _ _) hz]
    have hz_ge_bound : z.im > |M| / (π * ε) := by linarith [le_trans (le_max_right _ _) hz]
    have hDiff : DiffContOnCl ℂ (f ∘ ofComplex) (Metric.ball (z : ℂ) (z.im / 2)) :=
      diffContOnCl_comp_ofComplex_of_mdifferentiable hf (closedBall_center_subset_upperHalfPlane z)
    have hf_bdd_sphere : ∀ w ∈ Metric.sphere (z : ℂ) (z.im / 2), ‖(f ∘ ofComplex) w‖ ≤ M := by
      intro w hw
      have hw_im_pos : 0 < w.im :=
        closedBall_center_subset_upperHalfPlane z (Metric.sphere_subset_closedBall hw)
```

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 6]
```diff
@@ -0,0 +1,280 @@
...
+    have hR_pos : 0 < z.im / 2 := by positivity
+    have hmax_nonneg : 0 ≤ max A 0 := le_max_right _ _
+    have hA_le_max : A ≤ max A 0 := le_max_left _ _
+    have hf_bdd_sphere : ∀ w ∈ Metric.sphere (z : ℂ) (z.im / 2), ‖(f ∘ ofComplex) w‖ ≤ M := by
+      intro w hw
+      have hw_mem_closed : w ∈ Metric.closedBall (z : ℂ) (z.im / 2) :=
+        Metric.sphere_subset_closedBall hw
+      have hw_im_pos : 0 < w.im := hclosed hw_mem_closed
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]:
```suggestion
      have hw_im_pos : 0 < w.im :=
        closedBall_center_subset_upperHalfPlane z (Metric.sphere_subset_closedBall hw)
```

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 7]
```diff
@@ -0,0 +1,280 @@
...
+      have hw_im_ge_A : A ≤ w.im := by
+        have hdist : dist w z = z.im / 2 := Metric.mem_sphere.mp hw
+        have habs : |w.im - z.im| ≤ z.im / 2 := by
+          calc |w.im - z.im|
+            _ = |(w - z).im| := by simp [Complex.sub_im]
+            _ ≤ ‖w - z‖ := abs_im_le_norm _
+            _ = dist w z := (dist_eq_norm _ _).symm
+            _ = z.im / 2 := hdist
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]:
```suggestion
        have habs : |w.im - z.im| ≤ z.im / 2 := by
          calc |w.im - z.im|
            _ = |(w - z).im| := by simp [Complex.sub_im]
            _ ≤ ‖w - z‖ := abs_im_le_norm _
            _ = dist w z := (dist_eq_norm _ _).symm
            _ = z.im / 2 := Metric.mem_sphere.mp hw
```

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 8]
```diff
@@ -0,0 +1,280 @@
...
+    · have hM_pos : 0 < M := lt_of_le_of_ne hM_nonneg (Ne.symm hM_zero)
+      have habs_M_pos : 0 < |M| := abs_pos.mpr hM_zero
+      calc ‖D f z‖
+        _ ≤ M / (π * z.im) := hDf_bound
+        _ = |M| / (π * z.im) := by rw [abs_of_pos hM_pos]
+        _ < |M| / (π * (|M| / (π * ε))) := by
+            apply div_lt_div_of_pos_left habs_M_pos
+            · positivity
+            · apply mul_lt_mul_of_pos_left _ Real.pi_pos
+              exact hz_ge_bound
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]:
```suggestion
            · apply mul_lt_mul_of_pos_left hz_ge_bound Real.pi_pos
```

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 9]
```diff
@@ -0,0 +1,280 @@
...
+        _ ≤ M / (π * z.im) := hDf_bound
+        _ = 0 := by simp [hM_zero]
+        _ < ε := hε
+    · have hM_pos : 0 < M := lt_of_le_of_ne hM_nonneg (Ne.symm hM_zero)
+      have habs_M_pos : 0 < |M| := abs_pos.mpr hM_zero
+      calc ‖D f z‖
+        _ ≤ M / (π * z.im) := hDf_bound
+        _ = |M| / (π * z.im) := by rw [abs_of_pos hM_pos]
+        _ < |M| / (π * (|M| / (π * ε))) := by
+            apply div_lt_div_of_pos_left habs_M_pos
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]:
```suggestion
      calc ‖D f z‖
        _ ≤ M / (π * z.im) := hDf_bound
        _ = |M| / (π * z.im) := by rw [abs_of_pos hM_pos]
        _ < |M| / (π * (|M| / (π * ε))) := by
            apply div_lt_div_of_pos_left (abs_pos.mpr hM_zero)
```

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 10]
```diff
@@ -0,0 +1,280 @@
...
+/-- If f = O(exp(-c * Im z)) as z → i∞ for c > 0, then f → 0 at i∞. -/
+lemma tendsto_zero_of_exp_decay {f : ℍ → ℂ} {c : ℝ} (hc : 0 < c)
+    (hO : f =O[atImInfty] fun τ => Real.exp (-c * τ.im)) :
+    Filter.Tendsto f atImInfty (nhds 0) := by
+  apply Asymptotics.IsBigO.trans_tendsto hO
+  rw [atImInfty]
+  exact (tendsto_exp_neg_mul_atTop hc).comp Filter.tendsto_comap
+
+/-- A modular form tends to its value at infinity as z → i∞. -/
+lemma modular_form_tendsto_atImInfty {k : ℤ} (f : ModularForm (Gamma 1) k) :
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean:125]: This looks upstremable? @CBirkbeck

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 11]
```diff
@@ -0,0 +1,280 @@
...
+  have hexp_lt_half : Real.exp (-2 * π) < 1 / 2 := by
+    have : 1 < 2 * π := by nlinarith [pi_gt_three]
+    calc Real.exp (-2 * π) < Real.exp (-1) := Real.exp_strictMono (by linarith)
+      _ < 1 / 2 := by
+        rw [Real.exp_neg, one_div, inv_lt_inv₀ (Real.exp_pos _) (by norm_num : (0 : ℝ) < 2)]
+        have := Real.add_one_lt_exp (by norm_num : (1 : ℝ) ≠ 0); linarith
+  have hq_lt_half : ‖q‖ < 1 / 2 := lt_of_le_of_lt hq_bound hexp_lt_half
+  have hone_sub_q_gt_half : 1 / 2 < 1 - ‖q‖ := by linarith
+  -- Use norm_tsum_logDeriv_expo_le and bound r/(1-r)³ ≤ 8r for r < 1/2
+  have htsum_bound := norm_tsum_logDeriv_expo_le hq_lt
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]:
```suggestion
  have htsum_bound := norm_tsum_logDeriv_expo_le (norm_exp_two_pi_I_lt_one z)
```
and remove `hq_lt`.

File: SpherePacking/ModularForms/SerreDerivativeSlash.lean [hunk 12]
```diff
@@ -0,0 +1,128 @@
...
+    ext z; simp only [serre_D, Pi.add_apply, Pi.smul_apply, Pi.mul_apply, smul_eq_mul]; ring
+  have hequiv := serre_D_slash_equivariant 2 E₂ E₂_holo' γ
+  have hE₂slash := E₂_slash_transform γ
+  have hprod := ModularForm.mul_slash_SL2 (2 : ℤ) (2 : ℤ) γ E₂ E₂
+  ext z
+  rw [hserre12]
+  simp only [SlashAction.add_slash, Pi.add_apply]
+  have hsmul := ModularForm.SL_smul_slash (4 : ℤ) γ (E₂ * E₂) (1 / 12 : ℂ)
+  rw [hsmul]
+  simp only [Pi.smul_apply, smul_eq_mul]
```
Comment (seewoo5) [inline SpherePacking/ModularForms/SerreDerivativeSlash.lean]:
```suggestion
  simp only [SlashAction.add_slash, Pi.add_apply, ModularForm.SL_smul_slash, Pi.smul_apply,
    smul_eq_mul]
```

File: SpherePacking/ModularForms/SerreDerivativeSlash.lean [hunk 13]
```diff
@@ -0,0 +1,128 @@
...
+    have h := congrFun hprod z
+    simp only [Pi.mul_apply, Int.reduceAdd] at h
+    exact h
+  rw [hprod_z]
+  set α := (1 : ℂ) / (2 * riemannZeta 2) with hα_def
+  have hE₂slash_fun : (E₂ ∣[(2 : ℤ)] γ) = E₂ - α • D₂ γ := by
+    ext w
+    have h := congrFun hE₂slash w
+    simp only [Pi.sub_apply, Pi.smul_apply, smul_eq_mul] at h
+    exact h
```
Comment (seewoo5) [inline SpherePacking/ModularForms/SerreDerivativeSlash.lean]:
```suggestion
    ext w; simpa using congrFun hE₂slash w
```

File: SpherePacking/ModularForms/SerreDerivativeSlash.lean [hunk 14]
```diff
@@ -0,0 +1,128 @@
...
+    simp only [D_sub E₂ _ E₂_holo' hαD₂, D_smul α _ (MDifferentiable_D₂ γ),
+               Pi.sub_apply, Pi.smul_apply, smul_eq_mul]
+  have hDd : D (D₂ γ) z = -(γ 1 0 : ℂ)^2 / (denom γ z)^2 := D_D₂ γ z
+  simp only [serre_D, Pi.sub_apply, Pi.mul_apply, Pi.smul_apply, smul_eq_mul]
+  rw [hD_lin, hDd]
+  have hα_val : α = 3 / π^2 := by
+    simp only [hα_def]
+    rw [riemannZeta_two]
+    have hpi_ne : (π : ℂ) ≠ 0 := Complex.ofReal_ne_zero.mpr Real.pi_ne_zero
+    field_simp [hpi_ne]
```
Comment (seewoo5) [inline SpherePacking/ModularForms/SerreDerivativeSlash.lean]:
```suggestion
    simp only [hα_def, riemannZeta_two]
    field_simp [Complex.ofReal_ne_zero.mpr Real.pi_ne_zero]
```

File: SpherePacking/ModularForms/SerreDerivativeSlash.lean [hunk 15]
```diff
@@ -0,0 +1,128 @@
...
+    ring
+  have hden_ne : denom γ z ≠ 0 := UpperHalfPlane.denom_ne_zero γ z
+  have hpi_ne : (π : ℂ) ≠ 0 := Complex.ofReal_ne_zero.mpr Real.pi_ne_zero
+  have hD₂_eq : D₂ γ z = (2 * π * I * (γ 1 0 : ℂ)) / denom γ z := rfl
+  rw [hD₂_eq, hα_val]
+  field_simp [hden_ne, hpi_ne]
+  have hI_sq : (I : ℂ)^2 = -1 := Complex.I_sq
+  ring_nf
+  simp only [hI_sq]
```
Comment (seewoo5) [inline SpherePacking/ModularForms/SerreDerivativeSlash.lean]:
```suggestion
  ring_nf
  simp only [Complex.I_sq]
```
